US07638515B2
1,1,1-Trifluoro-4-phenyl-2-[(4-cyano-3-(trifluoromethyl)phenyl)iminomethyl]-4-methylpentan-2-ol
Analogously to Example 13, 120 mg of 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal and 78 mg of 4-cyano-3-(trifluoromethyl)aniline are converted into 71 mg of product.

reactant | 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal | 120 mg | OC(C=O)(CC(C)(C1=CC=CC=C1)C)C(F)(F)F | C13H15F3O2
reactant | 4-cyano-3-(trifluoromethyl)aniline | 78 mg | C(#N)C1=C(C=C(N)C=C1)C(F)(F)F | C8H5F3N2
product | 1,1,1-Trifluoro-4-phenyl-2-[(4-cyano-3-(trifluoromethyl)phenyl)iminomethyl]-4-methylpentan-2-ol | FC(C(CC(C)(C)C1=CC=CC=C1)(O)C=NC1=CC(=C(C=C1)C#N)C(F)(F)F)(F)F | C21H18F6N2O
